US07871998B2
tert-butyl N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-4-methylleucinate
N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine (20 mg, 0.037 mmol) was dissolved in 3 ml DCM. N-Methylmorpholine (9 μl, 0.082 mmol) and TBTU (14 mg, 0.044 mmol) were added. After 5 minutes, tert-butyl 4-methylleucinate (9 mg, 0.045 mmol) was added and the mixture was stirred for 2 h. Additional tert-butyl 4-methylleucinate (ca 3 mg, 0.015 mmol) was added. After 15 min, water (2 ml) was added and the mixture was acidified to a pH of 2 using 2M KHSO4. The aqueous phase was extracted with 2 ml DCM and the combined organic phases were washed with 3 ml water, dried over Na2SO4 and filtered. Removal of the solvent under reduced pressure gave the title compound. M/z: 724.

reactant | N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine | 0.037 mmol, 20 mg | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)O)C=C1 | C27H22F2N2O6S
reactant | N-Methylmorpholine | 0.082 mmol, 9 μl | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.044 mmol, 14 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | tert-butyl 4-methylleucinate | 0.045 mmol, 9 mg | CC(C[C@H](N)C(=O)OC(C)(C)C)(C)C | C11H23NO2
reactant | tert-butyl 4-methylleucinate | 0.015 mmol, ca 3 mg | CC(C[C@H](N)C(=O)OC(C)(C)C)(C)C | C11H23NO2
reactant | KHSO4 | 2M | OS(=O)(=O)[O-].[K+]
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
solvent | water | 2 ml | O | H2O
product | tert-butyl N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-4-methylleucinate | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)N[C@@H](CC(C)(C)C)C(=O)OC(C)(C)C)C=C1 | C38H43F2N3O7S
